US08232269B2
Preparation 12: 4-(2-Cyanopropanoyl)benzonitrile
Potassium-tert-butoxide (7.76 g, 69.2 mmol) and propionitrile (4.84 mL, 69.2 mmol) was added to a solution of 4-cyano-benzoic acid methyl ester (11.15 g, 69.2 mmol) in tetrahydrofuran (100 mL). This mixture was stirred at room temperature for 16 hours, and then quenched onto an aqueous 10% solution (weight/volume) citric acid (100 mL). The organic layer was separated and the aqueous layer was extracted with ethyl acetate (3×100 mL). The combined organic extracts were dried over magnesium sulphate, filtered, and evaporated under reduced pressure. This crude residue was triturated with tert-butyl methyl ether to give the title compound as a solid (7.00 g, 55%). 1H NMR (400 MHz, CDCl3): δ 1.65 (d, 3H), 4.35 (m, 1H), 7.85 (d, 2H), 8.10 (d, 2H).

reactant | Potassium-tert-butoxide | 69.2 mmol, 7.76 g | CC(C)([O-])C.[K+]
reactant | propionitrile | 69.2 mmol, 4.84 mL | C(CC)#N | C3H5N
reactant | 4-cyano-benzoic acid methyl ester | 69.2 mmol, 11.15 g | COC(C1=CC=C(C=C1)C#N)=O | C9H7NO2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-(2-Cyanopropanoyl)benzonitrile | 7.00 g, 55% | C(#N)C(C(=O)C1=CC=C(C#N)C=C1)C | C11H8N2O
